US07517876B2
2-amino-4-[(methylsulfonyl)amino]-benzenesulfonamide
2,5-Diamino-benzenesulfonamide (288 mg, 1.5 mol, prepared according to the procedure as described in Goldfarb A. R. et. al., J. Amer. Chem. Soc. 1943, 65, 738) in dichloromethane (5 mL) and pyridine (5 mL) at 0° C. was treated dropwise with methanesulfonyl chloride (119 μL, 1.5 mmol) over 3 minutes. The reaction mixture was warmed to 25° C. and stirred for 18 hours and concentrated under reduced pressure. The residue was chromatographed on silica gel, eluting with methanol in dichloromethane to yield the title compound (68% yield). 1H NMR (300 MHz, DMSO-d6): δ 9.21 (m, 1H), 7.45 (d, J=2.57 Hz, 1H), 7.29 (s, 2H), 7.13 (dd, J=8.64, 2.39 Hz, 1H), 6.78 (d, J=8.82 Hz, 1H), 5.80 (s, 1H), 3.39 (s, 1H), 2.87 (s, 3H).

reactant | 2,5-Diamino-benzenesulfonamide | NC1=C(C=C(C=C1)N)S(=O)(=O)N | C6H9N3O2S
reactant | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 1.5 mmol, 119 μL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 2-amino-4-[(methylsulfonyl)amino]-benzenesulfonamide | 68% yield | NC1=C(C=CC(=C1)NS(=O)(=O)C)S(=O)(=O)N | C7H11N3O4S2
